US06372743B1
D. N-[3-(2,6-Dichloro-4-ethynyl-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl]-N′-(tetrahydro-pyran-4-yl)-ethane-1,2-diamine
To a stirred solution of {2-[3-(2,6-dichloro-4-trimethylsilanylethynyl-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino]-ethyl}-(tetrahydro-pyran-4-yl)-carbamic acid tert-butyl ester (1.2 g, 2.0 mmol) in ethanol (2 mL) was added KOH (0.2 g, 8 mmol). After 1 hour, the reaction was cooled to 0° C. and 1:1 ethanol/concentrated aqueous hydrochloric acid (4 mL) was added and the mixture was allowed to warm to room temperature. After 1 day, the reaction was concentrated under reduced pressure, extracted from saturated aqueous sodium bicarbonate with methylene chloride, the combined extracts were dried (Na2SO4), concentrated under reduced pressure, and then chromatographed (4:1 to 10:3 to 3:2 ethyl acetate/methanol) to afford the title compound (0.70 g, 78%) as an off-white solid: +APcI MS (M+1)+458; 1H NMR (methanol-d4) δ: 7.58 (d, 1H), 6.10 (s, 1H), 3.76 (s, 1H), 2.39 (s, 3H), 2.23 (s, 3H).

reactant | {2-[3-(2,6-dichloro-4-trimethylsilanylethynyl-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino]-ethyl}-(tetrahydro-pyran-4-yl)-carbamic acid tert-butyl ester | 2.0 mmol, 1.2 g | C(C)(C)(C)OC(N(C1CCOCC1)CCNC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2Cl)C#C[Si](C)(C)C)Cl)C)C)=O | C31H41Cl2N5O3Si
reactant | KOH | 8 mmol, 0.2 g | [OH-].[K+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | N-[3-(2,6-Dichloro-4-ethynyl-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-yl]-N′-(tetrahydro-pyran-4-yl)-ethane-1,2-diamine | 0.70 g, 78% | ClC1=C(C(=CC(=C1)C#C)Cl)C=1C(=NN2C1N=C(C=C2NCCNC2CCOCC2)C)C | C23H25Cl2N5O
